US07858640B2
2-(4-methanesulfonylbenzyl)-4-methyl-3-oxopentanoic Acid Ethyl Ester
A suspension of potassium tert-butoxide (0.54 g) in anhydrous tetrahydrofuran (200 mL) at 0° C. was treated with a mixture of tert-butanol (0.1 mL) and 4-methyl-3-oxopentanoic acid ethyl ester (0.65 mL). After stirring at room temperature for 45 minutes a solution of 1-bromomethyl-4-methanesulfonylbenzene (1.0 g) in tetrahydrofuran (50 mL) was added and the resulting mixture heated at 70° C. for 24 hours. The mixture was cooled to room temperature, diluted with water and the tetrahydrofuran removed under reduced pressure. The residue was extracted with ethyl acetate and the combined extracts dried over magnesium sulfate and then the solvent removed under reduced pressure to afford title compound, 1.4 g.

reactant | potassium tert-butoxide | 0.54 g | CC(C)([O-])C.[K+]
reactant | tert-butanol | 0.1 mL | C(C)(C)(C)O | C4H10O
reactant | 4-methyl-3-oxopentanoic acid ethyl ester | 0.65 mL | C(C)OC(CC(C(C)C)=O)=O | C8H14O3
reactant | 1-bromomethyl-4-methanesulfonylbenzene | 1.0 g | BrCC1=CC=C(C=C1)S(=O)(=O)C | C8H9BrO2S
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-(4-methanesulfonylbenzyl)-4-methyl-3-oxopentanoic Acid Ethyl Ester | C(C)OC(C(C(C(C)C)=O)CC1=CC=C(C=C1)S(=O)(=O)C)=O | C16H22O5S
